US07772401B2
2,N-Dimethyl-N-(3,3-diphenylpropyl)-1-amino-2-propanol (5.0 gm) is dissolved in methylene chloride (25 ml) at 25-30° C., triethylamine (2.5 gm) is added and then the contents are cooled to 10-15° C. under N2 atmosphere. Trimethylsilyl chloride (2.5 gm) is slowly added to the reaction mass while maintaining the temperature between 10-15° C., the mass temperature is raised to 25-30° C. and maintained for 2 hours at the same temperature to give the reaction mass of 2,N-dimethyl-2-(trimethylsilyloxy)-N-(3,3-diphenylpropyl)-1-propanamine.

reactant | 2,N-Dimethyl-N-(3,3-diphenylpropyl)-1-amino-2-propanol | 5.0 gm | CC(CN(CCC(C1=CC=CC=C1)C1=CC=CC=C1)C)(C)O | C20H27NO
reactant | triethylamine | 2.5 gm | C(C)N(CC)CC | C6H15N
reactant | Trimethylsilyl chloride | 2.5 gm | C[Si](C)(C)Cl | C3H9ClSi
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 2,N-dimethyl-2-(trimethylsilyloxy)-N-(3,3-diphenylpropyl)-1-propanamine | CC(CN(CCC(C1=CC=CC=C1)C1=CC=CC=C1)C)(C)O[Si](C)(C)C | C23H35NOSi
